US06090839
EXAMPLE 5 2-(2-(3-(2-Phenyl)ethyl-7-propylbenz[4,5]isoxazol-6-yloxy)ethyl)indole-5-acetic acid
Using the procedures in Example 1, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)indole-5-acetate and 3-(2-phenyl)ethyl-7-(n-propyl)-6-hydroxybenz[4,5]isoxazole as a slightly tan solid.

reactant | methyl 2-(2-hydroxyethyl)indole-5-acetate | OCCC=1NC2=CC=C(C=C2C1)CC(=O)OC | C13H15NO3
reactant | 3-(2-phenyl)ethyl-7-(n-propyl)-6-hydroxybenz[4,5]isoxazole | C1(=CC=CC=C1)CCC1=NOC2=C1C=CC(=C2CCC)O | C18H19NO2
product | 2-(2-(3-(2-Phenyl)ethyl-7-propylbenz[4,5]isoxazol-6-yloxy)ethyl)indole-5-acetic acid | C1(=CC=CC=C1)CCC1=NOC2=C1C=CC(=C2CCC)OCCC=2NC1=CC=C(C=C1C2)CC(=O)O | C30H30N2O4
